US04400381
One mole of theophylline is dissolved in 2.5 liters of acetic acid containing one liter of water, and kept at 50° C., until the theophylline is dissolved and the medium becomes homogeneous. 1.1 mole of bromine is then added, drop by drop, and the bromine derivative, 8-bromotheophylline precipitates in the medium. The solution is then ccoled to room temperature , and the product filtered and washed with water, and then dried to give 70-85% yield of 8-bromo-theophylline.

reactant | theophylline | One mole | N1(C)C(=O)N(C)C=2N=CNC2C1=O | C7H8N4O2
reactant | bromine | 1.1 mole | BrBr | Br2
solvent | acetic acid | 2.5 liters | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 8-bromo-theophylline | 70-85% yield | BrC1=NC=2N(C(N(C)C(C2N1)=O)=O)C | C7H7BrN4O2
